* C:\Users\vivia\Projekt_MA\von Caroline\Simulationsmodell\BoostConverter.asc
V1 N005 0 PULSE(0 1 0 5n 5n 500n 1u)
V2 N003 0 12
R1 N002 0 25
R2 N010 N009 1.2k
R3 N009 0 350
R4 N007 N006 50
R5 N006 0 50
R6 N008 N010 5
L1 uds N003 3.25µ
C1 N003 0 10µ
C2 out 0 12µ Rser=50m Lser=1n IC=24
L2 out N001 20n Rser=50m
L3 N004 uds 1n
V3 0 Vee 20
V4 Vcc 0 20
L4 N002 out 1n
XU4 N007 N009 Vcc Vee N010 NC_01 ADA4870
XU5 uds N001 uds EPC2020
XU6 N008 N004 0 EPC2020
V5 N006 N005 SINE(0 {Amp} 30meg 0 0 {Phi})
.tran 0 5u 4u
.step param Amp list 1.8 2.0 2.4 2.6 3.0
.step param Phi list -150 120
.four 30meg 1 V(uds)
.lib C:\Users\vivia\Projekt_MA\von Caroline\Simulationsmodell\ADA4870.cir
.lib C:\Users\vivia\Projekt_MA\von Caroline\Simulationsmodell\EPC2020.lib
.backanno
.end
