*****************************************************************************
* EPC GaN Power Device Library
* (C) Copyright Efficient Power Conversion Corporation. All rights reserved.
* ***********************************************************************



*****************************************************************************
.subckt EPC2020 gatein drainin sourcein
.param aWg=3160 A1=120.8515 k2=2.2881 k3=0.15 rpara=0.0009908 rpara_s_factor=0.26
 + aITc=0.003822 arTc=-0.0078 k2Tc=0.001 x0_0=1.5736 x0_1=0 x0_1_TC=0
 + dgs1=4.3e-07 dgs2=2.6e-13 dgs3=0.8 dgs4=0.23
 + ags1=1.7554e-09 ags2=1.0469e-09 ags3=1.9499 ags4=0.21544
 + ags5=-3.4239e-14 ags6=-11.708 ags7=1.0562
 + agd1=4.6777e-15 agd2=5.5597e-11 agd3=-0.12422 agd4=59.856
 + agd5=3.4899e-10 agd6=-3.7046 agd7=2.4793
 + agd8=3.052e-12 agd9=-91.363 agd10=28.675
 + asd1=6.0016e-10 asd2=9.2575e-10 asd3=-17.064 asd4=4.4806
 + asd5=1.1622e-09 asd6=-0.48089 asd7=34.427 rg_value=0.3

rd drainin drain {((1-rpara_s_factor)*rpara*(1-arTc*(Temp-25)))}
rs sourcein source {(rpara_s_factor*rpara*(1-arTc*(Temp-25)))}
rg gatein gate {(rg_value)}

Rcsdconv drain source {100000Meg/aWg}
Rcgsconv gate source {100000Meg/aWg}
Rcgdconv gate drain {100000Meg/aWg}

bswitch drain source I=if(v(drain,source)>0,
+	(A1*(1-aITc*(Temp-25))*log(1.0+exp((v(gate,source)-(k2*(1-k2Tc*(Temp-25))))/k3))*
+	v(drain,source)/(1 + x0_0*v(drain,source))),
+	(-A1*(1-aITc*(Temp-25))*log(1.0+exp((v(gate,drain)-(k2*(1-k2Tc*(Temp-25))))/k3))*
+	v(source,drain)/(1 + x0_0*v(source,drain))))

bgsdiode gate source I=if( v(gate,source)>10,
+	(0.125*aWg/1077*(dgs1*(exp((10.0)/dgs3)-1)+dgs2*(exp((10.0)/dgs4)-1))),
+	(0.125*aWg/1077*(dgs1*(exp((v(gate,source))/dgs3)-1)+dgs2*(exp((v(gate,source))/dgs4)-1))))

bgddiode gate drain I=if( v(gate,drain)>10,
+	(0.125*aWg/1077*(dgs1*(exp((10.0)/dgs3)-1)+dgs2*(exp((10.0)/dgs4)-1))),
+	(0.125*aWg/1077*(dgs1*(exp((v(gate,drain))/dgs3)-1)+dgs2*(exp((v(gate,drain))/dgs4)-1))) )


C_GS       	gate source  {ags1}  TC=0,0
C_CGS1     	gate source Q=(0.5*ags2*ags4*log(1+exp((v(gate,source)-ags3)/ags4))+
+	ags5*ags7*log(1+exp((v(source,drain)-ags6)/ags7)) )

C_GD      	gate drain  {agd1}  TC=0,0
C_CGD1    	gate drain Q=(0.5*ags2*ags4*log(1+exp((v(gate,drain)-ags3)/ags4))+
+	        agd2*agd4*log(1+exp((v(gate,drain)-agd3)/agd4))+
+           agd5*agd7*log(1+exp((v(gate,drain)-agd6)/agd7))+
+           agd8*agd10*log(1+exp((v(gate,drain)-agd9)/agd10)))

C_SD       	source drain  {asd1}  TC=0,0
C_CSD1	source drain Q=(asd2*asd4*log(1+exp((v(source,drain)-asd3)/asd4))+
+	asd5*asd7*log(1+exp((v(source,drain)-asd6)/asd7)) )

.ends


.subckt EPC2020Cap gate drain source
.param aWg=3160 A1=120.8515 k2=2.2881 k3=0.15 rpara=0.0009908 rpara_s_factor=0.26
 + aITc=0.003822 arTc=-0.0078 k2Tc=0.001 x0_0=1.5736 x0_1=0 x0_1_TC=0
 + dgs1=4.3e-07 dgs2=2.6e-13 dgs3=0.8 dgs4=0.23
 + ags1=1.7554e-09 ags2=1.0469e-09 ags3=1.9499 ags4=0.21544
 + ags5=-3.4239e-14 ags6=-11.708 ags7=1.0562
 + agd1=4.6777e-15 agd2=5.5597e-11 agd3=-0.12422 agd4=59.856
 + agd5=3.4899e-10 agd6=-3.7046 agd7=2.4793
 + agd8=3.052e-12 agd9=-91.363 agd10=28.675
 + asd1=6.0016e-10 asd2=9.2575e-10 asd3=-17.064 asd4=4.4806
 + asd5=1.1622e-09 asd6=-0.48089 asd7=34.427 rg_value=0.3

bswitch drain source I=if(v(drain,source)>0,
+	(A1*(1-aITc*(Temp-25))*log(1.0+exp((v(gate,source)-(k2*(1-k2Tc*(Temp-25))))/k3))*
+	v(drain,source)/(1 + x0_0*v(drain,source))),
+	(-A1*(1-aITc*(Temp-25))*log(1.0+exp((v(gate,drain)-(k2*(1-k2Tc*(Temp-25))))/k3))*
+	v(source,drain)/(1 + x0_0*v(source,drain))))

C_GS       	gate source  {ags1}  TC=0,0
C_CGS1     	gate source Q=(0.5*ags2*ags4*log(1+exp((v(gate,source)-ags3)/ags4))+
+	ags5*ags7*log(1+exp((v(source,drain)-ags6)/ags7)) )

C_GD      	gate drain  {agd1}  TC=0,0
C_CGD1    	gate drain Q=(0.5*ags2*ags4*log(1+exp((v(gate,drain)-ags3)/ags4))+
+	        agd2*agd4*log(1+exp((v(gate,drain)-agd3)/agd4))+
+           agd5*agd7*log(1+exp((v(gate,drain)-agd6)/agd7))+
+           agd8*agd10*log(1+exp((v(gate,drain)-agd9)/agd10)))

C_SD       	source drain  {asd1}  TC=0,0
C_CSD1	source drain Q=(asd2*asd4*log(1+exp((v(source,drain)-asd3)/asd4))+
+	asd5*asd7*log(1+exp((v(source,drain)-asd6)/asd7)) )

.ends
